US07566712B2
Heat a mixture of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethylpyridin-2-yl)-piperazin-1-yl]-pyrimidine, (47 mg, 0.1 mmol), 3-tri-n-butylstannylpyridine (92 mg, 0.25 mmol), Pd(PPh3)4 (6 mg, 0.005 mmol), in toluene (5 mL) at 110° C. for 16 hours. Let cool to room temperature, filter off the catalyst, and add water (5 mL). Extract with EtOAc, dry (Na2SO4), and evaporate. Purify using flash chromatography (9:1 hexanes/EtOAc) to give pure 4-(3-chloro-4-fluorophenyl)-3-pyridin-3-yl-6-[4-(3-trifluoromethylpyridin-2-yl)-piperazin-1-yl]-pyrimidine as a tan solid. 1H NMR (DMSO D6): 9.75 (s, 1H). 9.21 (d, 1H), 8.97 (d, 1H), 8.62 (d, 1H), 8.58 (d, 1H), 8.40 (dd, 1H), 8.19 (d, 1H), 8.00 (d, 1H), 7.61 (d, 1H), 7.58 (s, 1H), 7.21 (dd, 1H), 4.01 (br m, 8H).

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethylpyridin-2-yl)-piperazin-1-yl]-pyrimidine | 0.1 mmol, 47 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | 3-tri-n-butylstannylpyridine | 0.25 mmol, 92 mg | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-chloro-4-fluorophenyl)-3-pyridin-3-yl-6-[4-(3-trifluoromethylpyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC=1C=C(C=CC1F)C=1N(CN=C(C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C=1C=NC=CC1 | C25H21ClF4N6
